US07662958B2
To a solution of 25% by weight aqueous potassium hydroxide (200 mL) and 1,4-dioxane (50 mL) heated to 90-100° C. was added portion wise ethyl 4-hydroxy-2-oxo-1-{[phenylmethylene]amino}-1,2-dihydroquinoline-3-carboxylate (6.72 g, 20.0 mmol). The reaction mixture was heated at reflux for 90 minutes allowing distillation to occur and additional water and dioxane (30 mL each) were added to the reaction vessel to reach the original volume. The mixture was refluxed for an additional 90 minutes with distillation, cooled, washed with 200 mL of 1:1 diethyl ether/ethyl acetate, acidified with concentrated hydrochloric acid to pH 2 and the resulting solid was collected by filtration, washed with water and dried to constant mass to give 1-amino-4-hydroxyquinolin-2(1H)-one as a tan sold (3.22 g, 91% yield), MS (DCI) m/z 177 (M+H)+. 1H NMR (300 MHz, DMSO-d6) δ 5.56 (s, 2H) 5.94 (s, 1H) 7.20 (t, J=7.54 Hz, 1H) 7.62 (m, 1H) 7.85 (m, 2H) 11.33 (s, 1H).

reactant | potassium hydroxide | 200 mL | [OH-].[K+]
reactant | ethyl 4-hydroxy-2-oxo-1-{[phenylmethylene]amino}-1,2-dihydroquinoline-3-carboxylate | 20.0 mmol, 6.72 g | OC1=C(C(N(C2=CC=CC=C12)N=CC1=CC=CC=C1)=O)C(=O)OCC | C19H16N2O4
solvent | 1,4-dioxane | 50 mL | O1CCOCC1 | C4H8O2
product | 1-amino-4-hydroxyquinolin-2(1H)-one | 91% yield | NN1C(C=C(C2=CC=CC=C12)O)=O | C9H8N2O2
